US05025031
Methylsulfamic acid 2-hydroxy-3-(2-methoxyphenoxy)propyl ester
A solution of 26.5 g (0.13 mole) of glycerol guaiacolate in 100 ml of methylene chloride and 10.8 ml (0.13 mole) of pyridine was added in a thin stream to a stirred solution of 17.1 g (0.13 mole) of N-methylsulfamoyl chloride in 70 ml of methylene chloride, and the reaction mixture was stirred at ambient temperature for 2 hr. The reaction mixture was treated with 150 ml of water, the layers were separated, and the organic layer was washed successively with a 200 ml portion of 2N hydrochloric acid solution, four 200 ml portions of water, dried (magnesium sulfate), and the solvent was evaporated under reduced pressure to yield a viscous oil. The oil was purified by preparative high pressure liquid chromatography. Fractions containing the desired product were combined and the solvents evaporated under reduced pressure to give 13.9 g (37%) of the title compound as a yellow gum.

reactant | glycerol guaiacolate | 0.13 mole, 26.5 g | COC=1C=CC=CC1OCC(CO)O | C10H14O4
reactant | pyridine | 0.13 mole, 10.8 ml | N1=CC=CC=C1 | C5H5N
reactant | N-methylsulfamoyl chloride | 0.13 mole, 17.1 g | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | water | 150 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | Methylsulfamic acid 2-hydroxy-3-(2-methoxyphenoxy)propyl ester | 13.9 g, 37% | OC(COS(NC)(=O)=O)COC1=C(C=CC=C1)OC | C11H17NO6S
